US09029371B2
To a mixture of 1-(4-benzyloxy-phenyl)-2-bromo-ethanone (28.55 g; 93.6 mmol) in CH2Cl2 (300 mL) and water (30 mL) was added nBu4NBr (1.51 g; 4.7 mmol) and NaN3 (6.69 g; 102.9 mmol) in one portion. After 4 h at RT, the layers were separated. The organic layer was washed water, dried (Na2SO4), filtered and concentrated in vacuo to afford 2-azido-1-(4-benzyloxy-phenyl)-ethanone (23.64 g)

reactant | 1-(4-benzyloxy-phenyl)-2-bromo-ethanone | 93.6 mmol, 28.55 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
reactant | NaN3 | 102.9 mmol, 6.69 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
catalyst | nBu4NBr | 4.7 mmol, 1.51 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | 2-azido-1-(4-benzyloxy-phenyl)-ethanone | 23.64 g | N(=[N+]=[N-])CC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H13N3O2
